US09340547B2
a) N-o-Tolyl-1H-imidazole-2-carboxamide
To a solution of 1H-imidazole-2-carboxylic acid (0.52 g, 4.64 mmol) in DMF (20 mL) was added o-toluidine (0.50 mL, 4.64 mmol), EDCHCl (1.35 g, 6.96 mmol) and HOBt (0.94 g, 6.96 mmol). The reaction mixture was stirred at room temperature for 16 hours. Then, it was poured into water and extracted with ethyl acetate. The combined organic layer was dried over sodium sulphate, filtered and concentrated to dryness. The crude product was purified by flash chromatography (2% to 3% MeOH/DCM) to yield 0.93 g (99%) of the title compound as a beige solid.

reactant | 1H-imidazole-2-carboxylic acid | 4.64 mmol, 0.52 g | N1C(=NC=C1)C(=O)O | C4H4N2O2
reactant | o-toluidine | 4.64 mmol, 0.50 mL | NC=1C(=CC=CC1)C | C7H9N
reactant | HOBt | 6.96 mmol, 0.94 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-o-Tolyl-1H-imidazole-2-carboxamide | 0.93 g, 99% | C1(=C(C=CC=C1)NC(=O)C=1NC=CN1)C | C11H11N3O
